US08242174B2
(R)-6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoic acid (D6)
To a cooled (0° C.) solution of (R)-3-((R)-6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoyl)-4-benzyloxazolidin-2-one (0.251 g, 0.552 mmol) in 11 mL of THF/H2O (8:3), were added stepwise 30% H2O2 (0.22 mL, 2.208 mmol) and LiOH (0.046 g, 1.105 mmol). The reaction mixture was stirred at 0° C. for 1 h then room temperature for overnight. Then a solution of Na2SO3 (0.304 g, 2.412 mmol) in 3 mL of water was added. After stirred at room temperature for 10 min, the reaction mixture was acidified with 4N HCl to pH=2 and extracted with dichloromethane (30 mL×3). The combined organic extracts dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was used directly in the next step without further purification (0.163 g, >99% yield).

reactant | (R)-3-((R)-6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoyl)-4-benzyloxazolidin-2-one | 0.552 mmol, 0.251 g | FC1=C(C=C(COCCCC[C@H](C(=O)N2C(OC[C@H]2CC2=CC=CC=C2)=O)N=[N+]=[N-])C=C1)C | C24H27FN4O4
reactant | H2O2 | 2.208 mmol, 0.22 mL | OO | H2O2
reactant | LiOH | 1.105 mmol, 0.046 g | [Li+].[OH-]
reactant | Na2SO3 | 2.412 mmol, 0.304 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | HCl | 4N | Cl | ClH
solvent | THF H2O | 11 mL | C1CCOC1.O
solvent | water | 3 mL | O | H2O
product | (R)-6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoic acid | >99% yield | FC1=C(C=C(COCCCC[C@H](C(=O)O)N=[N+]=[N-])C=C1)C | C14H18FN3O3
